US07320972B2
(3R,4S)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(3′-hydroxybiphenyl-4-yl)azetidin-2-one (19.2 mg, 0.04 mmol) was dissolved in chloroform (0.4 mL) and tetrabutylammonium tribromide (18.8 mg, 0.04 mmol) was added at room temperature. After 10 minutes, saturated aqueous sodium thiosulfate (2 mL) was added to quench the reaction. The mixture was poured into a seperatory funnel, extracted with dichloromethane (4×10 mL), dried over sodium sulfate, filtered and concentrated. (3R,4S)-4-(2′-bromo-5′-hydroxybiphenyl-4-yl)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]azetidin-2-one was purified by chromatography (12 g silica gel, 5% to 95% ethyl acetate-hexane) and then by reverse-phase HPLC (21 mm column, 50% to 100% acetonitrile-0.1% trifluoroacetic acid in water) to afford (3R,4S)-4-(2′-bromo-5′-hydroxybiphenyl-4-yl)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]azetidin-2-one (8.0 mg, 34% yield) as a clear foam; Rf 0.51 (50% ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 7.49 (d, J=8.7 Hz, 1H), 7.40 (m, 4H), 7.29 (m, 4H), 7.02 (t, J=8.7 Hz, 2H), 6.95 (t, J=8.7 Hz, 2H), 6.80 (d, J=3.3, 1H), 6.73 (dd, J=3.0, 3.0 Hz, 1H), 4.74 (t, J=6.2 Hz, 2H), 4.67 (d, J=2.1 Hz, 1H), 3.14 (m, 1H) 1.99 (m, 4H) ppm; MS [M−OH] 547.4.

reactant | (3R,4S)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(3′-hydroxybiphenyl-4-yl)azetidin-2-one | 0.04 mmol, 19.2 mg | FC1=CC=C(C=C1)N1C([C@@H]([C@H]1C1=CC=C(C=C1)C1=CC(=CC=C1)O)CC[C@H](O)C1=CC=C(C=C1)F)=O | C30H25F2NO3
reactant | tetrabutylammonium tribromide | 0.04 mmol, 18.8 mg | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium thiosulfate | 2 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | chloroform | 0.4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | (3R,4S)-4-(2′-bromo-5′-hydroxybiphenyl-4-yl)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]azetidin-2-one | 8.0 mg, 34% yield | BrC1=C(C=C(C=C1)O)C1=CC=C(C=C1)[C@@H]1[C@H](C(N1C1=CC=C(C=C1)F)=O)CC[C@H](O)C1=CC=C(C=C1)F | C30H24BrF2NO3
